US06333324B1
To a solution of pyrazine-2-carboxylic acid (100 g) in ethanol (EtOH, 1000 ml) was added conc. sulfuric acid (45 ml) at room temperature. After refluxing for 8 hours, the reaction mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate (AcOEt, 1500 ml) and water (H2O, 1000 ml), and sodium hydrogencarbonate (NaHCO3) was added to adjust the pH of the mixture to 8. The aqueous layer was extracted with AcOEt (1000 ml), and the combined organic layer was washed with brine and dried over magnesium sulfate (MgSO4). The solution was concentrated in vacuo, and the residue was crystallized from hexane (1000 ml) to give 111.2 g of ethyl pyrazine-2-carboxylate,

reactant | pyrazine-2-carboxylic acid | 100 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | sulfuric acid | 45 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 1000 ml | C(C)O | C2H6O
product | ethyl pyrazine-2-carboxylate | 111.2 g | N1=C(C=NC=C1)C(=O)OCC | C7H8N2O2
